US06034275
A solution of 0.92 ml of hexamethyldisilazane in 2.5 ml of THF is treated dropwise at 0° C. with 2.63 ml of 1.6M butyl-lithium in hexane. After 15 min. the mixture is cooled to -78° C. and 0.6g (Ex. Fa) of (E)-1-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluorophenyl]-ethanone (Ha) in 1.9 ml of THF is added dropwise. After 1 hr. at -78° C. 0.5 ml of geranyl bromide in 1 ml of THF is added dropwise. The mixture is left to warm to room temperature, stirred for 1 hr. and poured into saturated sodium bicarbonate solution/ether. The organic phase is washed with 10% sodium chloride solution, dried and evaporated. After silica gel chromatography with (97.5%) methylene chloride/methanol the residue is dissolved in ethanol with 0.87 g of fumaric acid, evaporated and precipitated from ether with pentane. There is obtained 0.24 g of (E)-1-[4-[(E)-4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluoro-phenyl]-2-[(E)-3,7-dimethyl-octa-2,6-dienyl]-5,9-dimethyl-deca-4,8-dien-1-one.fumarate (1:2), MS: m/e 549 (M).

reactant | hexamethyldisilazane | 0.92 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | butyl-lithium | 1.6M, 2.63 ml | C(CCC)[Li]
reactant | (E)-1-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluorophenyl]-ethanone | 0.6g | C(C=C)N(C/C=C/COC1=C(C=C(C=C1)C(C)=O)F)C | C16H20FNO2
reactant | geranyl bromide | 0.5 ml | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 1.9 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (E)-1-[4-[(E)-4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluoro-phenyl]-2-[(E)-3,7-dimethyl-octa-2,6-dienyl]-5,9-dimethyl-deca-4,8-dien-1-one | 0.24 g | C(C=C)N(C/C=C/COC1=C(C=C(C=C1)C(C(C\C=C(\CCC=C(C)C)/C)C\C=C(\CCC=C(C)C)/C)=O)F)C | C36H52FNO2
